US09085555B2
D. (2S,4R)-4-(tert-Butyl-dimethyl-silanyloxymethyl)-2-(3-chloro-2-fluoro-benzyl carbamoyl)-4-fluoro-pyrrolidine-1-carboxylic acid tert-butyl ester
To a solution of (2S,4S)-4-(tert-butyl-dimethyl-silanyloxymethyl)-2-(3-chloro-2-fluoro-benzyl carbamoyl)-4-hydroxy-pyrrolidine-1-carboxylic acid tert-butyl ester (200 mg, 0.35 mmol) in CH2Cl2 (10 mL) under N2 atmosphere at −78° C. was added DAST (92 μL, 0.7 mmol). The reaction mixture was then allowed to reach RT and further stirred for 1.5 h then poured into an aqueous saturated solution of NaHCO3 and extracted twice with CH2Cl2. The combined organic layers were dried (Na2SO4), filtered and concentrated to give the desired material which was used without further purification in the next step. TLC, Rf (c-hexane/EtOAc 1:1)=0.75; MS (LC/MS): 541.2/543.1 [M+Na]+, 463.1/465.1 [MH−tBu]+, 419.0/421.1 [MH−Boc]+; tR (HPLC conditions f): 2.81 min.

reactant | (2S,4S)-4-(tert-butyl-dimethyl-silanyloxymethyl)-2-(3-chloro-2-fluoro-benzyl carbamoyl)-4-hydroxy-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.35 mmol, 200 mg | C(C)(C)(C)OC(=O)N1[C@@H](C[C@@](C1)(O)C(O[SiH2]C(C)(C)C)(C)C)C(NCC1=C(C(=CC=C1)Cl)F)=O | C24H38ClFN2O5Si
reactant | DAST | 0.7 mmol, 92 μL | CCN(CC)S(F)(F)F | C4H10F3NS
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | (2S,4R)-4-(tert-Butyl-dimethyl-silanyloxymethyl)-2-(3-chloro-2-fluoro-benzyl carbamoyl)-4-fluoro-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1[C@@H](C[C@](C1)(F)C(O[SiH2]C(C)(C)C)(C)C)C(NCC1=C(C(=CC=C1)Cl)F)=O | C24H37ClF2N2O4Si
